US07687502B2
6-[(3-Chloropyridin-2-yl)oxy]-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-yl-amine
The compound of Example 116 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2,3-dichloropyridine, 3-amino-5-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 2,3-dichloropyridine | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | 3-amino-5-methyl-1H-pyrazole | NC1=NNC(=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 6-[(3-Chloropyridin-2-yl)oxy]-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-yl-amine | ClC=1C(=NC=CC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NNC(=C1)C | C17H13ClN6O
